US05462941
1.90 g of phthalic anhydride and 3.58 g of aluminum chloride were dissolved in 40 ml of dichloroethane, and 2-bromo-3-methylthiophene was added dropwise to the solution at room temperature. After stirring the solution for 4 hours, the reaction solution was poured into a 1-N hydrochloric acid under cooling with ice, and extracted with chloroform. By purifying the extract by silica gel chromatography (eluent: chloroform, ethyl acetate), 1.70 g of o-(5-bromo-2-thenoyl)benzoic acid was obtained.

reactant | phthalic anhydride | 1.90 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | aluminum chloride | 3.58 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-bromo-3-methylthiophene | BrC=1SC=CC1C | C5H5BrS
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
product | o-(5-bromo-2-thenoyl)benzoic acid | 1.70 g | BrC1=CC=C(S1)C(=O)C1=C(C(=O)O)C=CC=C1 | C12H7BrO3S
